US09403807B2
Step B: (E)-N-(1-(3-(4-chlorophenyl)-1-cyanopent-1-en-3-yl)-1H-indazol-4-yl)methane sulfonamide
To a mixture of (E)-4-(4-amino-1H-indazol-1-yl)-4-(4-chlorophenyl)hex-2-enenitrile (130 mg) and NMM (117 mg) in DCM (5 mL) was added MsCl (53 mg), Then the mixture was stirred at room temperature for 2 h. The solution was quenched with saturated NH4Cl solution, and extracted with ethyl acetate (30 mL). The organic layer was washed with brine, dried over dry sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography (eluent: PE/EA=5/1) to afford the title compound as a pale yellow solid. LC/MS m/z=415.2 [M+H]+.

reactant | (E)-4-(4-amino-1H-indazol-1-yl)-4-(4-chlorophenyl)hex-2-enenitrile | 130 mg | NC1=C2C=NN(C2=CC=C1)C(/C=C/C#N)(CC)C1=CC=C(C=C1)Cl | C19H17ClN4
reactant | NMM | 117 mg | CN1CCOCC1 | C5H11NO
reactant | MsCl | 53 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (E)-N-(1-(3-(4-chlorophenyl)-1-cyanopent-1-en-3-yl)-1H-indazol-4-yl)methane sulfonamide | ClC1=CC=C(C=C1)C(/C=C/C#N)(CC)N1N=CC2=C(C=CC=C12)NS(=O)(=O)C | C20H19ClN4O2S
